US07700594B2
4,4,5,5-Tetramethyl-2-(3-methyl-benzo[b]thiophen-2-yl)-[1,3,2]dioxaborolane
Prepared according to a procedure analogous to that described for 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole using 3-methyl-benzo[b]thiophene.

reactant | 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
reactant | 3-methyl-benzo[b]thiophene | CC=1C2=C(SC1)C=CC=C2 | C9H8S
product | 4,4,5,5-Tetramethyl-2-(3-methyl-benzo[b]thiophen-2-yl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=C(C2=C(S1)C=CC=C2)C)C | C15H19BO2S
